US04182877
Ethyl-6-chloro-4,N,N-trimethylanthranilate (2.4 g) and KOH (powdered, 1.5 g) were heated together in a test-tube with a free flame. After the initial reaction (temp 200°-220°) had subsided, the temperature was raised to 240°-260°, whereupon a second vigorous reaction ensued and the mixture became dark. On cooling, the mixture was dissolved in water, extracted with ether to remove tarry byproducts, and acidified (pH 5) with acetic acid. The crude product was extracted into chloroform and after removal of solvent, was purified by sublimation at 0.1 mm. 3-Dimethylamino-5-methylphenol was obtained as a pale yellow solid, mp 67°-68°.

reactant | Ethyl-6-chloro-4,N,N-trimethylanthranilate | 2.4 g | C(C)OC(C=1C(N(C)C)=CC(=CC1Cl)C)=O | C12H16ClNO2
reactant | KOH | 1.5 g | [OH-].[K+]
solvent | water | O | H2O
product | 3-Dimethylamino-5-methylphenol | CN(C=1C=C(C=C(C1)C)O)C | C9H13NO
